US04319033
The method of Example 4 was followed, using propioin (4-hydroxy-3-hexanone) (11.6 g) and 3-propoxypropane-1,2-dithiol (16.6 g) to give 5,6-diethyl-2,3-dihydro-2-propoxymethyl-1,4-dithiin as a greenish oil, b.p. 110°-111.5°/0.2 mm, yield 42%. N.M.R. (CDCl3) 0.8-1.25 δ triplets), 1.6-1.95 δ (complex overlapping signals), 2.75-3.65 δ (complex overlapping signals).

reactant | propioin | 11.6 g | CCC(C(O)CC)=O | C6H12O2
reactant | 3-propoxypropane-1,2-dithiol | 16.6 g | C(CC)OCC(CS)S | C6H14OS2
product | 5,6-diethyl-2,3-dihydro-2-propoxymethyl-1,4-dithiin | yield 42% | C(C)C=1SCC(SC1CC)COCCC | C12H22OS2
